US07534791B2
Synthesis of 2-iodo-N-methyl-benzamide (Method 8)
Thionyl chloride (29.4 mL, 404 mmol) is added to a solution of (2-iodo-benzoic acid (50.0 g, 202 mmol) in dry toluene (600 mL). The mixture is heated to reflux for 4 hours and the solvent is removed in vacuo. The remanence is redissolved in dry toluene (600 mL) and cooled to 0° C. 40% methylamine (aq., 94.1 mL, 1.21 mol) is added dropwise at 0-5° C. during 30 minutes. The mixture is then stirred at ambient temperature for 16 hours, poured onto water (300 mL) and extracted with ethyl acetate (3×300 mL) The combined organic fractions are washed successively with saturated sodium bicarbonate solution (250 mL) and brine (250 mL), dried (MgSO4) and concentrated in vacuo. This gives 50.8 g (96%) of crystalline 2-iodo-N-methyl-benzamide.

reactant | Thionyl chloride | 404 mmol, 29.4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-iodo-benzoic acid | 202 mmol, 50.0 g | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
reactant | methylamine | 1.21 mol, 94.1 mL | CN | CH5N
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
product | 2-iodo-N-methyl-benzamide | IC1=C(C(=O)NC)C=CC=C1 | C8H8INO
